### ISSUE TITLE
Wiedijk #44: Binomial Theorem

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#94]
## Wiedijk's 100 Theorems: #44 - The Binomial Theorem

**Category**: Algebra / Combinatorics  
**Difficulty**: Easy  
**Mathlib Status**: ✅ Available  
**Epic**: #76

---

## Statement

For any elements $x, y$ in a commutative ring and non-negative integer $n$:

$$(x + y)^n = \sum_{k=0}^{n} \binom{n}{k} x^k y^{n-k}$$

where $\binom{n}{k} = \frac{n!}{k!(n-k)!}$ is the binomial coefficient.

### Special Cases

- $(x+y)^2 = x^2 + 2xy + y^2$
- $(x+y)^3 = x^3 + 3x^2y + 3xy^2 + y^3$
- $(1+x)^n = \sum_{k=0}^{n} \binom{n}{k} x^k$

---

## Mathlib Resources

The theorem is available in Mathlib as `add_pow`:

```lean
theorem add_pow [CommSemiring R] (x y : R) (n : ℕ) :
    (x + y) ^ n = ∑ k in range (n + 1), x ^ k * y ^ (n - k) * choose n k
```

### Key Imports
```lean
import Mathlib.Algebra.BigOperators.Ring
import Mathlib.Data.Nat.Choose.Sum
import Mathlib.Algebra.Ring.Basic
```

### Related Lemmas
- `Nat.choose` - Definition of binomial coefficients
- `Nat.choose_symm` - $\binom{n}{k} = \binom{n}{n-k}$
- `Nat.add_choose` - $\binom{n+1}{k+1} = \binom{n}{k} + \binom{n}{k+1}$ (Pascal's rule)
- `Nat.choose_self` - $\binom{n}{n} = 1$
- `Nat.choose_zero_right` - $\binom{n}{0} = 1$
- `sum_range_choose` - $\sum_{k=0}^{n} \binom{n}{k} = 2^n$

---

### File Structure
Create `proofs/Proofs/BinomialTheorem.lean`

### Required Components

1. **Main theorem**: The binomial expansion
2. **Binomial coefficient properties**: Key identities
3. **Corollaries**:
   - Sum of binomial coefficients: $\sum \binom{n}{k} = 2^n$
   - Alternating sum: $\sum (-1)^k \binom{n}{k} = 0$
4. **Special cases**: $n = 2, 3$ explicit expansions

### Suggested Structure

```lean
/-- The Binomial Theorem (Wiedijk #44).
    (x + y)^n = ∑ₖ (n choose k) * x^k * y^(n-k) -/
theorem binomial_theorem [CommSemiring R] (x y : R) (n : ℕ) :
    (x + y) ^ n = ∑ k in Finset.range (n + 1), 
      Nat.choose n k * x ^ k * y ^ (n - k) := by
  convert add_pow x y n using 2
  ext k
  ring

/-- Sum of binomial coefficients equals 2^n -/
theorem sum_binomial_coefficients (n : ℕ) :
    ∑ k in Finset.range (n + 1), Nat.choose n k = 2 ^ n := by
  have h := binomial_theorem 1 1 n
  simp at h
  exact h

/-- Alternating sum of binomial coefficients is zero (for n ≥ 1) -/
theorem alternating_sum_binomial (n : ℕ) (hn : 0 < n) :
    ∑ k in Finset.range (n + 1), (-1 : ℤ) ^ k * Nat.choose n k = 0 := by
  have h := binomial_theorem (1 : ℤ) (-1) n
  simp at h
  exact h
```

---

## Acceptance Criteria

- [ ] File `proofs/Proofs/BinomialTheorem.lean` created
- [ ] Main theorem `binomial_theorem` proven (no `sorry`)
- [ ] Sum of coefficients corollary: $\sum \binom{n}{k} = 2^n$
- [ ] Alternating sum corollary
- [ ] Pascal's identity included
- [ ] At least one explicit case (n=2 or n=3)
- [ ] Comprehensive docstrings
- [ ] File registered in `proofs/Proofs.lean`
- [ ] Build passes: `cd proofs && lake build`

---

## Historical Context

The binomial theorem was known to ancient mathematicians in special cases. The general formula was developed by:
- **Al-Karaji** (c. 1000): Described the triangle of coefficients
- **Yang Hui** (1261): Published Pascal's triangle in China
- **Newton** (1665): Extended to fractional and negative exponents

---

### Negative Binomial Theorem
For $|x| < 1$ and real $r$:
$$(1+x)^r = \sum_{k=0}^{\infty} \binom{r}{k} x^k$$

### Multinomial Theorem
$$(x_1 + \cdots + x_m)^n = \sum_{k_1+\cdots+k_m=n} \binom{n}{k_1,\ldots,k_m} x_1^{k_1} \cdots x_m^{k_m}$$

---

## References

- [Wiedijk's 100 Theorems](https://www.cs.ru.nl/~freek/100/)
- [Mathlib Binomial](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Choose/Sum.html)
- [Binomial Theorem - Wikipedia](https://en.wikipedia.org/wiki/Binomial_theorem)
